US04684650
A mixture of trans-4-[3-(4-fluorophenyl)-6-fluoro-indan-1-yl]-1-piperazineethanol (40 g, 0.11 mol), thionylchloride (15 ml) and DMF (0.7 ml) in methylene chloride (400 ml) was refluxed for 1 hour. After cooling, the crystalline solid was filtered and washed on the filter with ethyl acetate and ether to give trans 1-[3-(4-fluorophenyl)-indan-1-yl]-4-(2-chloroethyl)piperazine, dihydrochloride (45 g). Mp: 250°-255° C.

reactant | trans-4-[3-(4-fluorophenyl)-6-fluoro-indan-1-yl]-1-piperazineethanol | 0.11 mol, 40 g | FC1=CC=C(C=C1)[C@@H]1C[C@H](C2=CC(=CC=C12)F)N1CCN(CC1)CCO | C21H24F2N2O
reactant | thionylchloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.7 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | trans 1-[3-(4-fluorophenyl)-indan-1-yl]-4-(2-chloroethyl)piperazine, dihydrochloride | 45 g | Cl.Cl.FC1=CC=C(C=C1)[C@@H]1C[C@H](C2=CC=CC=C12)N1CCN(CC1)CCCl | InChI=1S/C21H24ClFN2.2ClH/c22-9-10-24-11-13-25(14-12-24)21-15-20(16-5-7-17(23)8-6-16)18-3-1-2-4-19(18)21;;/h1-8,20-21H,9-15H2;2*1H/t20-,21+;;/m0../s1
